US08207176B2
3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-N-[2-(4-fluorophenyl)ethyl]-4-methylbenzamide
The title compound is prepared from the acid from 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid by following the procedures in Example 19 using 2-(4-fluorophenyl)ethanamine for the amide formation and 2,2,6,6-tetramethyl-4-piperidinamine for the displacement reaction: LC-MS m/z 669 (M+H)+, 2.03 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
reactant | 2-(4-fluorophenyl)ethanamine | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | 2,2,6,6-tetramethyl-4-piperidinamine | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
product | 3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-N-[2-(4-fluorophenyl)ethyl]-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC1=CC=C(C=C1)F)C=CC2C)NC2CC(NC(C2)(C)C)(C)C)=O | C38H39F3N6O2
